US07977331B1
To a suspension of (R)-3-methoxymethylpiperidine hydrochloride (6.00 g, 36.3 mmol), sodium acetate (6.55 g, 79.9 mmol) and acetic acid (4.57 ml, 79.9 mmol) in tetrahydrofuran (120 ml) was added dropwise chloroacetyl chloride (3.18 ml, 39.9 mmol) under ice-cooling, and the mixture was stirred overnight at room temperature. To the reaction mixture was added saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:4) to give (R)-3-methoxymethyl-N-(chloroacetyl)piperidine (6.00 g, yield 80.0%).

reactant | (R)-3-methoxymethylpiperidine hydrochloride | 36.3 mmol, 6.00 g | Cl.COC[C@H]1CNCCC1
reactant | sodium acetate | 79.9 mmol, 6.55 g | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 79.9 mmol, 4.57 ml | C(C)(=O)O | C2H4O2
reactant | chloroacetyl chloride | 39.9 mmol, 3.18 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | (R)-3-methoxymethyl-N-(chloroacetyl)piperidine | 6.00 g, yield 80.0% | COC[C@H]1CN(CCC1)C(CCl)=O | C9H16ClNO2
